US06743794B2
5-{(1S,3S)-3-[2-(phenylamino)ethyl]cyclohexyl }-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one
N-{(1S,3S)-3-[2-(phenylamino)ethyl]cyclohexyl }[3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-yl]carboxamide (54 mg; 0.118 mmol) was dissolved in anhydrous DMF (2 mL) under a dry nitrogen atmosphere at room temperature. When potassium bis(trimethylsilyl)amide (0.5 M in toluene; 572 μL; 2.2 equiv) was added dropwise to this solution, a clear orange color formed. After 5 min, the reaction was chilled in an ice bath, quenched with 1N HCl(aq) (10 mL), and extracted with ethyl acetate (twice). The organic layer was washed with saturated NaCl(aq) (once), dried with Na2SO4(s), filtered, and concentrated to dryness by rotary evaporation. The product was purified by radial chromatography on a 2 mm thick silica gel rotor. A dichloromethane mobile phase was ineffective at purifying the product. Re-chromatography with a 100% hexanes mobile phase followed by a 20% ethyl acetate/hexanes (v/v) mobile phase separated product from impurities. After drying from diethyl ether, an off-white foam (43 mg; 84%) was obtained.

reactant | N-{(1S,3S)-3-[2-(phenylamino)ethyl]cyclohexyl }[3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-yl]carboxamide | 0.118 mmol, 54 mg | C1(=CC=CC=C1)NCC[C@H]1C[C@H](CCC1)NC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl | C25H27ClFN3O2
reactant | potassium bis(trimethylsilyl)amide | 0.5 M, 572 μL, 2.2 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-{(1S,3S)-3-[2-(phenylamino)ethyl]cyclohexyl }-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one | C1(=CC=CC=C1)NCC[C@H]1C[C@H](CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C25H26ClN3O2
